US07018988B2
(2S,4EZ)-N2-allyl-N1-benzoyl-4-(methoxyimino)-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, benzoyl isocyanate, and allylamine the title compound was obtained in 49% purity by LC/MS. MS(ESI+): m/z=345.0.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | benzoyl isocyanate | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
reactant | allylamine | C(C=C)N | C3H7N
product | (2S,4EZ)-N2-allyl-N1-benzoyl-4-(methoxyimino)-1,2-pyrrolidinedicarboxamide | C(C=C)NC(=O)[C@H]1N(CC(C1)=NOC)C(=O)NC(C1=CC=CC=C1)=O | C17H20N4O4
